### ISSUE TITLE
Error when proving two theorems with smt in the same file

### ISSUE THREAD

**Issue by tomaz1502** [ufmg-smite/lean-smt#60]
If we try to build the following script:

```lean
import Smt

set_option trace.smt.debug.reconstruct true

theorem t0 (p q : Prop) : p ∧ q → q ∧ p := by
  smt

theorem t1 (p q : Prop) : p → q → p := by
  smt
```

The first theorem type checks, but the second one throws an error, even though our tactic is enough to prove it. This is because the second call of ```smt``` tries to define again the theorem ```th0```, as this name is hard coded into the tactic. In order to fix we could just change the name of the theorem generated for a fresh name, with ```mkFreshId```

**Comment by abdoo8080** [comment]
This is issue is now fixed with the change to cvc5's FFI interface.
